Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left lower extremity swelling, pain and redness with left ___ 
toe discoloration.
 
Major Surgical or Invasive Procedure:
___:
PROCEDURES PERFORMED:
1. Ultrasound-guided access to the right common femoral
    artery and placement of a ___ sheath.
2. Selective catheterization of the left below-knee
    popliteal-to-posterior tibial artery bypass graft.
3. Balloon angioplasty of bypass graft with a 2 to 2.5 mm
    tapered balloon.
4. Placement of lysis infusion catheter.

___
1. Lysis check with left lower extremity angiogram.
2. Right groin access site closure with a ___ ProGlide
    Perclose device.

___ Left ___ toe amputation

 
History of Present Illness:
___ year old man with a past medical history notable for DM, ESRD 
on HD (___), ischemic cardiomyopathy with EF of ___, PAD 
s/p R BKA and most recently a L BK ___ bypass w/ NRSVG in 
___ (Dr. ___ now seen in consultation for 
management of erythema, pain, and swelling of L forefoot. Pt 
reports he has been doing well recently and was just seen by Dr. 
___ in clinic on ___. In the days since being seen he 
has noted increased pain, warmth, and swelling of his L forefoot 
with some associated darkening of his L ___ toe. He denies any 
fevers, chills, nausea, vomiting, CP/SOB, recent trauma to the 
leg, or pain at rest.
 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: ___: LLE angiogram, L BK ___ bypass w/ NRSVG 
(Cambpell), R BKA ___, ___, R pop-DP bypass, ___ 
toe amputation ___ (___, Vascular 
surgeon Dr ___, RLE hematoma evacuation ___ 
(___), bypass graft explantation, tonsillectomy, 
Debridement ankle infection ___ Revision right ankle ligament 
reconstruction with Achilles tendon allograft ___, 5V CABG 
___.
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
98.7 89 132/84 16 100RA
Gen: NAD
CV: RRR
R: clear, unlabored
Abd: soft, NT/ND, no masses
Ext: RLE wwp, stump site healing well with small area of eschar
in midline, no erythema. LLE with dependent rubor, + notable
edema of L forefoot with dry gangrene of ___ and ___ does, L ___
toe with evolving ischemic changes. There is no purulent
discharge noted. Pt with tenderness of forefoot primarily. 
Pulses: R: palp/dop/BKA; L: palp/dop/dop/dop; graft is
dopplerable

DISHCHARGE PHYSICAL EXAM:
98.6, 143/73, 72, 18, 97 RA
Gen: NAD
CV: RRR
R: clear, unlabored
Abd: soft, NT/ND, no masses
Ext: RLE wwp, stump site healing well with small area of eschar
in midline, no erythema. 
LLE with dependent rubor, + notable
edema of L forefoot, L ___ toe stump clean. There is no purulent
discharge noted. 
Pulses: R: palp/dop/BKA; L: palp/dop/dop/dop; graft is
dopplerable
 
Pertinent Results:
___ C. difficile DNA amplification assay (Final ___: 
Negative for toxigenic C. difficile by the Cepheid nucleic acid 
amplification assay. 

___ Serotonin Release Assay

___ Cardiovascular C.CATH
ANGIOGRAM FINDINGS:
1. Patent left popliteal artery.
2. Patent left below-knee popliteal to ___ bypass after 24
    hours of lysis.  The distal posterior tibial artery
    feeds into tarsal vessels which supplies the forefoot.
3. The peroneal artery has a short-segment occlusion distal
    to its takeoff from the TP trunk, but is patent to the
    ankle adjacent to collaterals.  The anterior tibial
    artery shortly occludes after its takeoff, but
    reconstitutes distally and feeds into the dorsalis pedis
    artery.

___ Cardiovascular C.CATH
ANGIOGRAPHIC FINDINGS:
1. Patent left distal SFA and AK knee popliteal.
2. Patent peroneal artery with outflow to the ankle.
3. Occluded left AT and ___.
4. Occluded left BK popliteal-to-posterior tibial artery
    bypass graft.
5. Next reconstitution of the ___ and the dorsalis pedis in
    the foot from the peroneal collaterals.

___ Cardiovascular ECG
No consistently discerible P waves appreciated. Atrial 
fibrillation with a low ventricular response rate of 54 beats 
per minute. Right bundle-branch block. Possible prior inferior 
wall myocardial infarction, indeterminate age. Non-specific ST 
segment changes. Compared to the previous tracing of ___ 
the ventricular response rate is markedly slower and ventricular 
ectopy is no longer appreciated. 

___ CXR 
IMPRESSION:  
No radiographic evidence of acute cardiopulmonary disease. 

___ Heparin Dependent Antibodies
TEST                        RESULTS           REFERENCE RANGE    
    UNITS
____________________        _______           _______________    
    _____
PF4 Heparin Antibody         0.30                0.00 - 0.39 

___ ART DUP EXT LO UNI
IMPRESSION:  
Patent left pop-pt bypass graft with 3 fold velocity elevation 
at mid segment and decreased flow in the distal graft suggesting 
high risk risk for occlusion. 

___ BLOOD CULTURE
Blood Culture, Routine (Final ___:    NO GROWTH.

 
___ 06:35AM BLOOD WBC-3.2* RBC-3.76* Hgb-9.9* Hct-33.6* 
MCV-89 MCH-26.3 MCHC-29.5* RDW-16.5* RDWSD-53.6* Plt ___
___ 11:30AM BLOOD Plt Ct-82*
___ 07:00AM BLOOD Plt Ct-97*
___ 02:04PM BLOOD ___ 06:35AM BLOOD Glucose-221* UreaN-18 Creat-2.4* Na-138 
K-4.4 Cl-101 HCO3-28 AnGap-13
___ 06:35AM BLOOD Calcium-8.3* Phos-3.4 Mg-2.3
 
Brief Hospital Course:
Pt was admitted to vascular surgery for LLE angiogram and 
management of erythema, pain, and swelling the L forefoot. He 
was started on heparin drip heparin with a goal PTT ___ and 
argatroban. Given the pt's reported history of HIT, Heparin 
dependent antibodies were sent. The panel returned within normal 
limits and his platelet count remained stable throughout heparin 
treatment. Vancomycin and ciprofloxacin were started for empiric 
treatment of his dry gangrenous L ___ toe. On ___ pt 
underwent ultrasound-guided access to the right common femoral 
artery and placement of a ___ sheath, selective 
catheterization of the left below-knee popliteal-to-posterior 
tibial artery bypass graft, balloon angioplasty of bypass graft 
with a 2 to 2.5 mm tapered balloon and placement of lysis 
infusion catheter. The procedure was uncomplicated. On ___ 
the pt underwent a lysis check with left lower extremity 
angiogram with right groin access. As a result of his 
procedures, he was found to have a patent left below-knee 
popliteal to ___ bypass after 24 hours of lysis. The procedure 
was uncomplicated. On ___ the pt underwent L ___ toe 
amputation for dry gangrenous toe. The procedure was 
uncomplicated. Pt was started on apixaban following the L ___ 
toe amputation and minocycline for his left lower extremity 
infection

With regard to general health maintenance, the pt received 
dialysis during his hospitalization. He developed diarrhea and a 
C.diff culture returned negative. 

He was discharged home on a 2 week course of Minocycline and 
with services for wound care.

His Serotonin assay antibodies to confirm HIT are pending.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Warfarin 10 mg PO DAILY 
3. Gabapentin 100 mg PO TID 
4. Atorvastatin 80 mg PO QPM 
5. Furosemide 80 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. glimepiride 1 mg oral DAILY 
8. Sertraline 50 mg PO DAILY 
9. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
10. OxyCODONE SR (OxyconTIN) 20 mg PO QAM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every 6h Disp 
#*60 Tablet Refills:*0 
2.  Apixaban 2.5 mg PO BID 
RX *apixaban [Eliquis] 2.5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Minocycline 100 mg PO BID 
RX *minocycline 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Furosemide 80 mg PO DAILY  
7.  Gabapentin 100 mg PO TID  
8.  glimepiride 1 mg oral DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  
10.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg ___ tablet(s) by mouth every 4h Disp #*30 
Tablet Refills:*0 
11.  OxyCODONE SR (OxyconTIN) 20 mg PO QAM 
RX *oxycodone 20 mg 1 tablet(s) by mouth qam Disp #*15 Tablet 
Refills:*0 
12.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1)Graft occlusion, failure of below the knee 
popliteal-to-posterior tibial artery bypass vein graft
2)Graft recanalization of left lower extremity bypass
3) peripheral vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr ___,
You were evaluated at the emergency department ___ 
for Left forefoot redness, pain and swelling on ___. Your 
left ___ toe was more dark than the last time you ere seen in 
clinic and it was decided to admit you to ___ 
___ on ___ for work-up and IV antibiotics 
vancomycin /ciprofloxacin/flagyl). During your hospitalization a 
dye study was performed which showed that your left leg bypass 
was occluded. For this reason you underwent a second procedure 
with a dye study and blood thinners in order to recanalize the 
graft (lysis procedure on ___. The next day (___) we 
repeated the dye study and we saw that your graft was reopened. 
However your left ___ toe because gangrenous and we had to 
proceed to it amputation on ___. During your hospitalization 
you had sessions of hemodialysis and we switched you from 
Coumadin to Apixaban (a different blood thinner) given the 
failure of coumadin to keep the graft open. Physical therapy was 
consulted and suggested that you could be cleared for Home with 
Services. Once you were tolerating a diet, able to urinate and 
move from your wheelchair to the bed with assistance we 
discharged you on an oral antibiotic (minocycline for 2 weeks) 
and we stopped your home Coumadin and replaced it with po 
apixaban. 

Please follow the instructions below to continue your recovery:

ACTIVITY: 
• On the side of your amputation you are non weight bearing for 
___ weeks. 
• You should keep this amputation site elevated when ever 
possible. 
• You may use the opposite prosthesis for transfers and pivots 
or the heel of your left leg.
• No driving until cleared by your Surgeon.
• No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
• You may shower when you get home
• No tub baths or pools / do not soak your foot for 4 weeks from 
your date of surgery 

WOUND CARE:
please change the dressing on your left ___ toe amputation daily 
(dry gauze)

CAUTIONS:
• If you smoke, please make every attempt to quit.  Your primary 
care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
• Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 

CALL THE OFFICE FOR: ___
• Bleeding, redness of, or drainage from your foot wound
• New pain, numbness or discoloration of the skin on the 
effected foot
• Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___